Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Fioricet / all antibiotics except bactrim
 
Attending: ___.
 
Chief Complaint:
Gallstones
 
Major Surgical or Invasive Procedure:
ERCP with sphincterotomy and stent placement
 
History of Present Illness:
HMED Admission Note
Date of note: ___

PCP:  ___, MD

CC:  ___

HPI: Mr. ___ is a ___ yo male with prior ccy, obesity, here 
post ercp.  He was evaluated for biliary causes of episodes of 
abdominal pain, and was found to have ___.  He 
presented for routine ercp today.  He had episodes of pain, but 
none in past ___ weeks.  

The procedure was noted for difficult cannulation, pd stent 
placement and large stone removed.  No immediate complications.

ROS notable for recent cold symptoms, with rhinorrhea, cough and 
sore throat, but no fever.  Also with intermittent migraines.  3 
pound weight gain.  ROS in 9 other systems reviewed. 

 
Past Medical History:
CHOLELITHIASIS 
GASTROESOPHAGEAL REFLUX 
HYPERLIPIDEMIA 
HYPOGONADISM 
MIGRAINE HEADACHES 
NEPHROLITHIASIS 
OBSTRUCTIVE SLEEP APNEA 
BENIGN POSITIONAL VERTIGO 
ABDOMINAL PAIN 
CHOLEDOCHOLITHIASIS 
SIDE BRANCH IPMN 
H/O EKG-LEFT AXIS 
H/O ESOPHAGITIS 

 
Social History:
___
Family History:
Gallbladder disease.
 
Physical Exam:
                    

Physical exam
afebrile 98.2 145/80 72 100%   
Gen:  In NAD, obese, nasal voice.
HEENT:  PERRL, EOMI.  No scleral icterus.  No conjunctival 
injection.   Mucous membranes moist.  No oral ulcers.
Neck:  Supple, no LAD, no JVP elevation.
Lungs: CTA bilaterally, no wheezes, rales, rhonchi.  Normal 
respiratory effort.
CV:  RRR, no murmurs, rubs, gallops.
Abdomen:  soft, pain with deep palpation in epigastric area.
Extremities:  warm and well perfused, no cyanosis, clubbing, 
edema.
Neurological:  alert and oriented X 3, CN II-XII intact.
Skin:  No rashes or ulcers.
Psychiatric:  Appropriate.
GU:  deferred.

dc physical exam:
VSS. 
No pain in epigastric area despite deep palpation.

 
Pertinent Results:
___ 09:00AM   UREA N-13 CREAT-0.9 SODIUM-139 POTASSIUM-3.5 
CHLORIDE-103 TOTAL CO2-23 ANION GAP-17
___ 09:00AM   ALT(SGPT)-36 AST(SGOT)-23 ALK PHOS-79 
AMYLASE-48 TOT BILI-0.9 DIR BILI-0.2 INDIR BIL-0.7
___ 09:00AM   WBC-10.2* RBC-5.14 HGB-14.8 HCT-43.2 MCV-84 
MCH-28.8 MCHC-34.3 RDW-14.2 RDWSD-43.4
___ 09:00AM   PLT COUNT-203
___ 09:00AM   ___ssessment and Plan: Mr. ___ is a ___ male here for monitoring 
after ERCP for choledocholithiasis, after reported difficult 
cannulation.  He also has a URI.

## choledocholithiasis - 
He was treated with IV fluids, no IV pain medications, and was 
symptom free by the morning of his discharge.  He was started on 
an oral diet the morning after, and was pain free.  He was 
discharged with plans for repeat ERCP in ___ weeks, to be 
arranged by the ERCP service. He was advised not to use NSAIDS 
or aspirin for 5 days, and low fat diet was recommended.

## URI
He was treated with supportive care

## OSA
He was treated with home cpap.

## Migraines
No need for fioricet.

Transitional issues:
Repeat ERCP in ___ weeks.

 
Discharge Medications:
1. Omeprazole 40 mg PO DAILY 
2. Acetaminophen-Caff-Butalbital (butalbital-acetaminophen-caff) 
50-300-40 mg ORAL DAILY:PRN headache 
3. Nadolol 20 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Choledocholithiasis
Sleep apnea
 
Discharge Condition:
Tolerating diet, stable vital signs
 
Discharge Instructions:
You were admitted for an ERCP for a gallstone. You tolerated 
this well.

No advil, aleve, ibuprofen or aspirin for 5 days.

You will need a repeat ERCP in ___ weeks.  They will contact you 
to set this up.

Follow a low fat diet.
 
Followup Instructions:
___